US07442805B2
Synthesis of 1-(1,1′-biphenyl-4-ylmethyl)-5-[(methylsulfonyl)amino]-3-phenyl-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 5-amino-1-(1,1′-biphenyl-4-ylmethyl)-3-phenyl-1H-indole-2-carboxylate and methanesulfonyl chloride followed the procedure of Example 1 Step 3 as a white solid: 1H NMR (DMSO-d6) δ 2.86 (s, 3H, 5.87 (s, 2H), 7.22 (d, J=8.4 Hz, 2H, 7.25 (dd, J=9.0, 2.1 Hz, 1H, 7.30-7.40 (m, 3H, 7.40-7.50 (m, 6H), 7.58-7.63 (m, 4H, 7.66 (d, J=9.0 Hz, 1H, 9.40 (s, 1H, 12.52 (br s, 1H; MS (ESI) m/z 495 [M-H]−; HRMS calcd for C29H25N2O4S: 497.1533; found (ESI+): 497.1524; Anal. calcd for C29H24N2O4S.0.5H2O.0.5 ACN: C, 68.49; H, 5.05; N, 6.66. Found: C, 68.05; H, 5.04; N, 7.04.

reactant | ethyl 5-amino-1-(1,1′-biphenyl-4-ylmethyl)-3-phenyl-1H-indole-2-carboxylate | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C30H26N2O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | ACN | C(C)#N | C2H3N
product | 1-(1,1′-biphenyl-4-ylmethyl)-5-[(methylsulfonyl)amino]-3-phenyl-1H-indole-2-carboxylic acid | C1(=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)NS(=O)(=O)C)C1=CC=CC=C1)C(=O)O)C1=CC=CC=C1 | C29H24N2O4S
